US04649146
To a solution of 5-acetyl-2-amino-4-methylthiazole (15.6 g) in a mixture of tetrahydrofuran (200 ml) and dimethylformamide (50 ml) was dropwise added isoamylnitrite (14.6 g) at 50° C. to 55° C. with stirring and the mixture was stirred at 55° C. to 60° C. for 4 hours. The reaction mixture was poured into a mixture of ethyl acetate and water with stirring. The separated organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was subjected to column chromatography on silica gel and eluted with a mixture of diisopropyl ether and ethyl acetate (1:1). The fractions containing the desired compound were combined and evaporated in vacuo to give 5-acetyl-4-methylthiazole (7.7 g) as an oil.

reactant | 5-acetyl-2-amino-4-methylthiazole | 15.6 g | C(C)(=O)C1=C(N=C(S1)N)C | C6H8N2OS
reactant | isoamylnitrite | 14.6 g | C(CC(C)C)ON=O | C5H11NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-acetyl-4-methylthiazole | 7.7 g | C(C)(=O)C1=C(N=CS1)C | C6H7NOS
